US07598423B2
Synthesis of 3-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-fluoro-methyl}-benzonitrile
A solution of 3-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-hydroxy-methyl}-benzonitrile (5.0 g, 12.06 mmol) and dichloromethane (100 mL) is stirred at −78° C. Diethylaminosulfur trifluoride (1.8 mL, 13.74 mmol) is added, the cold bath is removed, and the reaction is stirred at room temperature 1 hr. The reaction mixture is diluted with water (100 mL), the layers are separated, and the aqueous layer is extracted with dichloromethane (2×100 mL). The organic layers are combined, washed with water (50 mL), dried over magnesium sulfate, filtered, and concentrated to give 5.1 g, 100%, of the title compound as a tan solid. LCMS M+1=418.

reactant | 3-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-hydroxy-methyl}-benzonitrile | 12.06 mmol, 5.0 g | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C#N)C=CC2)O)C=C1)CCC)O | C26H25NO4
reactant | Diethylaminosulfur trifluoride | 13.74 mmol, 1.8 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-fluoro-methyl}-benzonitrile | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C#N)C=CC2)F)C=C1)CCC)O | C26H24FNO3
